US05144045
1-Bromo-2-nonadecyne
A mixture of 18.8 g of 2-nonadecyn-1-ol, 110 ml of ether, 1.14 ml of pyridine and 5.7 ml of phosphorous tribromide in 25 ml of ether is heated at reflux for 2 hours, then stirred at room temperature for 2 hours, poured into water and washed with hydrochloric acid. The solution is evaported and filtered through silicon dioxide with hexane, to give 16.9 g of the desired product as a white solid, mp. 34°-35° C.

reactant | 2-nonadecyn-1-ol | 18.8 g | C(C#CCCCCCCCCCCCCCCCC)O | C19H36O
reactant | pyridine | 1.14 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorous tribromide | 5.7 ml | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 110 ml | CCOCC | C4H10O
product | 1-Bromo-2-nonadecyne | 16.9 g | BrCC#CCCCCCCCCCCCCCCCC | C19H35Br
